US07935719B2
Preparation of (S)-1,3′-bipyrrolidin-1′-yl(4-fluorophenyl)methanone
A solution of 4-fluorobenzoic acid (3.5 g, 24.98 mmol) in DMF is treated with (S)-1,3′-bipyrrolidine dihydrochloride (10.65 g, 49.96 mmol), triethylamine (12.64 g, 124.90 mmol), 1-ethyl-3(3-dimethylaminopropyl)carbodiimide (5.75 g, 28.98 mmol) and N-hydroxybenzotriazole (4.05 g, 29.98 mmol), stirred at room temperature for 16 h and concentrated in vacuo. The resultant residue is partioned between CH2Cl2 and H2O. The organic phase is separated, washed sequentially with saturated NaHCO3 and brine, dried over MgSO4 and concentrated. The concentrate is absorbed onto silica and purified by flash column chromatography (10% methanol in CH2Cl2) to give the title product, identified by NMR and mass spectral analyses.

reactant | 4-fluorobenzoic acid | 24.98 mmol, 3.5 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | (S)-1,3′-bipyrrolidine dihydrochloride | 49.96 mmol, 10.65 g | Cl.Cl.N1(CCCC1)[C@@H]1CNCC1
reactant | triethylamine | 124.90 mmol, 12.64 g | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3(3-dimethylaminopropyl)carbodiimide | 28.98 mmol, 5.75 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | N-hydroxybenzotriazole | 29.98 mmol, 4.05 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-1,3′-bipyrrolidin-1′-yl(4-fluorophenyl)methanone | N1(CCCC1)[C@@H]1CN(CC1)C(=O)C1=CC=C(C=C1)F | C15H19FN2O
